US07855285B2
9-(2,3,5-Tri-O-acetyl-β-D-ribofuranosyl)-2-chloro-6-(2-propylimidazol-1-yl)purine (4.99 g, 9.6 mmol) was dissolved in HOAc (400 mL). To the solution was added AcCl (4.0 mL, 4.42 g, 56.3 mmol), and the mixture was stirred at 65° C. for 1.5 h in a sealed flask (reaction almost complete, TLC). Volatiles were evaporated in vacuo, and the residue was washed (CH2Cl2), and dissolved in 0.1 N NaOH/H2O. Precipitation with CO2 gave 2-chloro-6-(2-propylimidazol-1-yl)purine (2.20 g, 88%). Recrystallization (MeOH) gave the pure material (1.93 g, 77%).

reactant | 9-(2,3,5-Tri-O-acetyl-β-D-ribofuranosyl)-2-chloro-6-(2-propylimidazol-1-yl)purine | 9.6 mmol, 4.99 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)N1C(=NC=C1)CCC)Cl | C22H25ClN6O7
reactant | AcCl | 56.3 mmol, 4.0 mL, 4.42 g | C(=O)(C)Cl | C2H3ClO
solvent | HOAc | 400 mL | CC(=O)O | C2H4O2
product | 2-chloro-6-(2-propylimidazol-1-yl)purine | 2.20 g, 88% | ClC1=NC(=C2NC=NC2=N1)N1C(=NC=C1)CCC | C11H11ClN6
